US07524843B2
a) N-Methylbenzofuran-2-carboxamide
To a solution of 2-benzofurancarboxylic acid (1.62 g, 10 mmole), methylamine hydrochloride (0.79 g, 11 mmole), triethylamine (3.1 mL, 22 mmole), and HOBt.H2O (1.5 g, 11 mmole) in DMF (30 mL) was added EDC (2.1 g, 11 mmole). The reaction was stirred overnight then was concentrated in vacuo. The residue was diluted with 5% NaHCO3 and extracted with CH2Cl2. The combined organic extracts were washed with brine, dried over MgSO4, and concentrated. Flash chromatography on silica gel (3% MeOH/CH2Cl2) gave the title compound (1.75 g, 100%) as white solid: MS (ES) m/e 176 (M+H)+.

reactant | 2-benzofurancarboxylic acid | 10 mmole, 1.62 g | O1C(=CC2=C1C=CC=C2)C(=O)O | C9H6O3
reactant | methylamine hydrochloride | 11 mmole, 0.79 g | Cl.CN
reactant | triethylamine | 22 mmole, 3.1 mL | C(C)N(CC)CC | C6H15N
reactant | HOBt | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | H2O | 11 mmole, 1.5 g | O | H2O
reactant | EDC | 11 mmole, 2.1 g
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
product | N-Methylbenzofuran-2-carboxamide | 1.75 g, 100% | CNC(=O)C=1OC2=C(C1)C=CC=C2 | C10H9NO2
